US06812235B2
To a solution of 2-tert-butoxycarbonylamino-2-methylpropionic acid (2.03 g) and 1-hydroxybenzotriazole (1.35 g) in N,N-dimethylfolmamide (20 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.91 g) and the mixture was stirred overnight. The reaction mixture was partitioned between a mixture of ethyl acetate and n-hexane and water. The separated organic layer was washed in turn with water, a saturated sodium hydrogencarbonate in water and brine and dried over magnesium sulfate. The organic layer was evaporated under reduced pressure to give benzotriazol-1-yl 2-tert-butoxycarbonylamino-2-methylpropionate (2.94 g, 91.9%) as a solid.

reactant | 2-tert-butoxycarbonylamino-2-methylpropionic acid | 2.03 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | 1-hydroxybenzotriazole | 1.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.91 g | Cl.C(C)N=C=NCCCN(C)C
product | benzotriazol-1-yl 2-tert-butoxycarbonylamino-2-methylpropionate | 2.94 g, 91.9% | C(C)(C)(C)OC(=O)NC(C(=O)ON1N=NC2=C1C=CC=C2)(C)C | C15H20N4O4
